data/oMe_Silver.jsonl
{"reaction_id": "NR-111_1-CC_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-CCCC(C)C_4-C_5-C_6-C_7-c1ccccc1","name": "Hosomi-Sakurai Reaction","level": "medium","reactants_smiles": ["C(=C(C)C)(CCCC(C)C)C(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[Si](C)(C)C","C(=O)(C)c1ccccc1","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C(C)C)(CCCC(C)C)C(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O)(C)c1ccccc1"],"conditions": "Lewis Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Ti](Cl)(Cl)Cl)(C)c1ccccc1","rationale": "TiCl4, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon for nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[Si](C)(C)(C)C(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[C+](CCCC(C)C)C(C)(C)C(O[Ti](Cl)(Cl)Cl)(C)c1ccccc1","rationale": "The allylsilane attacks the activated carbonyl; β-silicon stabilization of the developing carbocation lowers the activation barrier under Lewis acidic conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C)C)(CCCC(C)C)C(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O[Ti](Cl)(Cl)Cl)(C)c1ccccc1","rationale": "Loss of the silyl group occurs as the β-silyl carbocation collapses, restoring the alkene and forming a C–O–Ti bond, driven by the stability of the alkene and Ti–O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C)C)(CCCC(C)C)C(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O)(C)c1ccccc1","rationale": "Proton transfer from solvent or medium to the alkoxide–Ti complex releases the neutral alcohol, favored by the strong Ti–O bond cleavage upon protonation."}],"description": "In the Hosomi–Sakurai reaction, a Lewis acid activates the carbonyl toward nucleophilic attack by an allylsilane. Titanium tetrachloride coordinates to the carbonyl oxygen, enhancing electrophilicity. The allylsilane attacks, forming a β-silyl carbocation stabilized by hyperconjugation. Elimination regenerates the alkene, and proton transfer yields the alcohol product."}
{"reaction_id": "NR-240_1-C_2-C(=O)c1ccccc1_3-CC(C)(C)C_4-c1ccc(Cl)cc1_5-Cc1ccc(OC)cc1","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["CC(=O)C(C(=O)c1ccccc1)[N+](CC(C)(C)C)(c1ccc(Cl)cc1)Cc1ccc(OC)cc1","[Li]N(C(C)C)C(C)C"],"products_smiles": ["CC(=O)C(C(=O)c1ccccc1)(Cc1ccc(OC)cc1)N(CC(C)(C)C)(c1ccc(Cl)cc1)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC([O-])=C(C(=O)c1ccccc1)[N+](CC(C)(C)C)(c1ccc(Cl)cc1)Cc1ccc(OC)cc1","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "CC(=O)C(C(=O)c1ccccc1)(Cc1ccc(OC)cc1)N(CC(C)(C)C)(c1ccc(Cl)cc1)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
